US08053457B2
{2-[4-(2-Oxo-2-pyrrolidin-1-yl-ethyl)-piperazin-1-yl]-ethyl}-carbamic acid tert-butyl ester
The title compound is synthesized by coupling of 2-piperazin-1-yl-1-pyrrolidin-1-yl-ethanone (commercially available from CHESS GmbH) and (2-Bromo-ethyl)-carbamic acid tert-butyl ester analogously to the preparation of Intermediate 269.2 as a colorless oil; ES-MS: M+H=341.3: CtRet=4.08.

reactant | 2-piperazin-1-yl-1-pyrrolidin-1-yl-ethanone | N1(CCNCC1)CC(=O)N1CCCC1 | C10H19N3O
reactant | (2-Bromo-ethyl)-carbamic acid tert-butyl ester | C(C)(C)(C)OC(NCCBr)=O | C7H14BrNO2
product | {2-[4-(2-Oxo-2-pyrrolidin-1-yl-ethyl)-piperazin-1-yl]-ethyl}-carbamic acid tert-butyl ester | C(C)(C)(C)OC(NCCN1CCN(CC1)CC(N1CCCC1)=O)=O | C17H32N4O3
